US03940395
A well blended mixture of 3.8 g. of 4-(4-chloro-2-phenylpyrimidin-6-yl)-1-piperazineethanol and 7.0 g. of p-chlorothiophenol is heated in an oil bath maintaining the temperature at 160°C. for 3 hours. After being cooled to room temperature, the reaction mixture is triturated with 60 ml. of 30°/o sodium hydroxide. The product is collected on a sintered glass funnel and washed with water repeatedly. Upon recrystallization from 65°/o ethanol, there is obtained 4-[4-(4-chlorophenylthio)-2-phenyl-6-pyrimidinyl]-1-piperazine ethanol, m.p. 118°-120°C.

reactant | 4-(4-chloro-2-phenylpyrimidin-6-yl)-1-piperazineethanol | ClC1=NC(=NC(=C1)N1CCN(CC1)CCO)C1=CC=CC=C1 | C16H19ClN4O
reactant | p-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
product | 4-[4-(4-chlorophenylthio)-2-phenyl-6-pyrimidinyl]-1-piperazine ethanol | ClC1=CC=C(C=C1)SC1=NC(=NC(=C1)N1CCN(CC1)CCO)C1=CC=CC=C1 | C22H23ClN4OS
